US09212182B2
A solution of PdCl2(dppf)-DCM adduct (0.922 g, 1.129 mmol), methylboronic acid (2.70 g, 45.2 mmol), 4-bromo-3-chloroanisole (6.39 ml, 45.2 mmol), and potassium phosphate (28.8 g, 135 mmol) in 150 mL dioxane and 50 mL water was heated to 110° C. for 2 hours. The reaction mixture was then diluted with heptane, the organics dried over MgSO4 and concentrated to afford 2-chloro-4-methoxy-1-methylbenzene. m/z (ESI) 141.0 (M−CH3)+.

reactant | methylboronic acid | 45.2 mmol, 2.70 g | CB(O)O | CH5BO2
reactant | 4-bromo-3-chloroanisole | 45.2 mmol, 6.39 ml | BrC1=C(C=C(C=C1)OC)Cl | C7H6BrClO
reactant | potassium phosphate | 135 mmol, 28.8 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 150 mL | O1CCOCC1 | C4H8O2
solvent | water | 50 mL | O | H2O
solvent | heptane | CCCCCCC | C7H16
catalyst | PdCl2(dppf) DCM | 1.129 mmol, 0.922 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 2-chloro-4-methoxy-1-methylbenzene | ClC1=C(C=CC(=C1)OC)C | C8H9ClO
